US09382214B2
(2-Fluoro-6-trifluoromethyl-benzyl)-urea (2.568 g, 10.9 mmol) in toluene (125 mL) was heated briefly to reflux under a Dean-Stark trap. T-butyl acetoacetate (5.0 g) was added and the mixture heated to reflux for 4 hrs. p-Toluenesulfonic acid monohydrate (2.82 g, 14.8 mmol) was added and the reflux was continued for one additional hour. Toluene was displaced with i-PrOH and the volume of the solution was reduced to approximately 30 mL. The solution was stirred overnight at room temp. The crystalline product was filtered and washed with a few mL of i-PrOH to provide 2.01 g (63% yield) of 1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-1H-pyrimidine-2,4-dione. LCMS (ESI) m/z 303.0 (MH+)

reactant | (2-Fluoro-6-trifluoromethyl-benzyl)-urea | 10.9 mmol, 2.568 g | FC1=C(CNC(=O)N)C(=CC=C1)C(F)(F)F | C9H8F4N2O
reactant | T-butyl acetoacetate | 5.0 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | p-Toluenesulfonic acid monohydrate | 14.8 mmol, 2.82 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | i-PrOH | CC(C)O | C3H8O
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-1H-pyrimidine-2,4-dione | 2.01 g, 63% yield | FC1=C(CN2C(NC(C=C2C)=O)=O)C(=CC=C1)C(F)(F)F | C13H10F4N2O2
